US04423213
To a solution of sodium 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer)(2.0 g) in N,N-dimethylformamide (40 ml) was added sodium iodide (0.8 g) and 1-bromopropyl acetate (0.9 g) under ice-cooling with stirring, and the stirring was continued at the same temperature for half an hour. The reaction mixture was poured into a mixture of water and ethyl acetate, and the separated organic solution was washed twice with a saturated aqueous sodium chloride and twice with water, followed by drying over anhydrous magnesium sulfate. Removal of the solvent gave a residue, which was pulverized with diisopropyl ether and then chromatographed on silica gel eluting with a mixed solvent of ethyl acetate and chloroform (4:6 to 6:4 by volume), and fractions containing a desired compound were collected. Removal of the solvent gave a residue, which was pulverized with diisopropyl ether and then collected by filtration to obtain 1-acetoxypropyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer)(0.62 g), mp 97°-101° C.

reactant | sodium 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 2.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)[O-])C1=O)=NOC.[Na+]
reactant | sodium iodide | 0.8 g | [I-].[Na+]
reactant | 1-bromopropyl acetate | 0.9 g | C(C)(=O)OC(CC)Br | C5H9BrO2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-acetoxypropyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 0.62 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(CC)OC(C)=O)C1=O)=NOC | C20H23N5O7S2
